US07223798B2
In a flame dried flask, a solution of (1E,3S)-1-bromo-4-(4-fluorophenoxy)-3-hydroxy-1-butene (0.84 g, 3 mmol), tetrakis(triphenylphosphine)palladium(0) (0.13 g, 0.2 mmol) and copper(I) iodide (60 mg, 0.3 mmol) in THF (50 mL) and diethylamine (5 mL, 48 mmol) was carefully deoxygenated by bubbling in argon gas for 45 minutes. The reaction was stirred as a solution of 2-[[(4S,5R)-5-[(1E,3E)-1,3-hexadien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester, (0.9 g, 3.2 mmol) in THF (50 mL), which had been deoxygenated by bubbling in argon for 45 minutes, was added. After about 4 hours, the reaction was complete. The reaction mixture was diluted with hexane and filtered through a pad of silica gel and the silica gel was eluted with ether. The combined filtrates were concentrated to give an oil. Purification by chromatography using a 20–75% gradient of ether in hexane gave 1.1 g of 2-[[(4S,5R)-5-[(1E,3E,7E,9S)-9-hydroxy-10-(4-fluorophenoxy)-1,3,7-decatrien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester, a compound of formula (EE), as an oil; 1H NMR (CDCl3) δ 1.37 (s, 3H), 1.5 (s, 3H), 3.52 (m, 2H), 3.75 (s, 3H), 3.83 (m, 2H), 4.13 (m, 2H), 4.44 (m, 1H), 5.74 (m, 1H), 5.76 (m, 2H), 6.05 (m, 1H), 6.17 (m, 1H), 6.29 (m, 1H), 6.58 (dd, 1H), 6.88 (m, 4 H) ppm.

reactant | (1E,3S)-1-bromo-4-(4-fluorophenoxy)-3-hydroxy-1-butene | 3 mmol, 0.84 g | Br\C=C\[C@@H](COC1=CC=C(C=C1)F)O | C10H10BrFO2
reactant | diethylamine | 48 mmol, 5 mL | C(C)NCC | C4H11N
reactant | 2-[[(4S,5R)-5-[(1E,3E)-1,3-hexadien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester | 3.2 mmol, 0.9 g | C(=C\C=C\C#C)/[C@@H]1[C@@H](OC(O1)(C)C)COCC(=O)OC | C15H20O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.3 mmol, 60 mg | [Cu]I
product | 2-[[(4S,5R)-5-[(1E,3E,7E,9S)-9-hydroxy-10-(4-fluorophenoxy)-1,3,7-decatrien-5-ynyl]-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester | 1.1 g | O[C@@H](/C=C/C#C/C=C/C=C/[C@@H]1[C@@H](OC(O1)(C)C)COCC(=O)OC)COC1=CC=C(C=C1)F | C25H29FO7
